US06969723B2
a) 2-amino-3-cyano4-(2-thienylmethylamino)quinoline
5 g of 2-amino-3-cyano4-chloroquinoline, prepared as described in Example 1, is stirred with 11 ml of 2-thienylmethylamine at 130° C. for 3 hours. The reaction mixture is poured onto 50 ml of water, the resulting precipitate is filtered off, washed with 50 ml of water. The pale yellow material is recrystallized from 25 ml of ethanol to obtain 5.2 g of title compound, mp.: 208° C.

reactant | 2-amino-3-cyano4-chloroquinoline | 5 g | NC1=NC2=CC=CC=C2C(=C1C#N)Cl | C10H6ClN3
reactant | 2-thienylmethylamine | 11 ml | S1C(=CC=C1)CN | C5H7NS
solvent | water | 50 ml | O | H2O
product | 2-amino-3-cyano4-(2-thienylmethylamino)quinoline | 5.2 g | NC1=NC2=CC=CC=C2C(=C1C#N)NCC=1SC=CC1 | C15H12N4S
